US06245746B1
(C) Boc-Homophenylalanyl-Nδ-Boc-Nα-Methylornithine 2-(4-Methylphenyl)ethylamide
Using Procedure D, Boc-homophenylalanine (143 mg) and Nδ-Boc-Nα-methylornithine 2-(4-methylphenyl)ethylamide (crude product from B) afforded titled product (195 mg) as a glassy solid after silica gel chromatography: 1H NMR (400 MHz, CDCl3) δ1.44 (2 s, 18H), 1.63 (m, 2H), 1.83 (m, 2H, 2.33 s, 3H), 2.63-279 (m, 7H), 3.09 (m, 2H), 3.45 (m, 2H), 4.51 (m, 1H), 4.98 (m, 1H), 7.09 (m, 4H) (m, 3H), and 7.31 (m, 2H).

reactant | Boc-homophenylalanine | 143 mg | C(=O)(OC(C)(C)C)N[C@@H](CCC1=CC=CC=C1)C(=O)O | C15H21NO4
reactant | Nδ-Boc-Nα-methylornithine 2-(4-methylphenyl)ethylamide | CC1=CC=C(C=C1)CCNC([C@@H](NC)CCCNC(=O)OC(C)(C)C)=O | C20H33N3O3
product | Boc-Homophenylalanyl-Nδ-Boc-Nα-Methylornithine 2-(4-Methylphenyl)ethylamide | 195 mg | CC1=CC=C(C=C1)CCNC([C@@H](N(C)C([C@@H](NC(=O)OC(C)(C)C)CCC1=CC=CC=C1)=O)CCCNC(=O)OC(C)(C)C)=O | C35H52N4O6
